US04220766
In a manner similar to the above (1), a solution of 75 mg of diphenylmethyl (2R)-3-methyl-2-[(1R,5S)-3-benzyl-7-oxo-4-oxa-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-3-butenoate in 5 ml of methylene chloride is stirred at room temperature for 1 hour in the presence of 0.03 ml of triethylamine to afford diphenylmethyl-2-[(1R,5S)-3-benzyl-7-oxo-4-oxa-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-2-butenoate in 95% yield. mp. 104.5°-106° C.

reactant | diphenylmethyl (2R)-3-methyl-2-[(1R,5S)-3-benzyl-7-oxo-4-oxa-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-3-butenoate | 75 mg | CC([C@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)N1[C@H]2OC(=N[C@H]2C1=O)CC1=CC=CC=C1)=C | C29H26N2O4
reactant | triethylamine | 0.03 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | diphenylmethyl-2-[(1R,5S)-3-benzyl-7-oxo-4-oxa-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-2-butenoate | 95% yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(=CC)N1[C@H]2OC(=N[C@H]2C1=O)CC1=CC=CC=C1)=O | C28H24N2O4
